US07432289B2
N-(4′{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)cyclopentanecarboxamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide and cyclopentanecarboxylic acid using method D. NMR; δH [2H6]—DMSO 9.85,(1H, s), 8.61,(1H, t), 7.91,(2H, d), 7.52-7.49,(2H, m), 7.40,(2H, d), 7.20,(1H, d), 3.16,(2H, t), 2.74,(1H, m), 2.15,(3H, s), 1.83-1.51,(8H, m), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.42 min, MH+377.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | cyclopentanecarboxylic acid | C1(CCCC1)C(=O)O | C6H10O2
product | N-(4′{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)cyclopentanecarboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1CCCC1 | C24H28N2O2
